US08877754B2
Methyl-5-propoxy-2-iodobenzoate
2.97 mL (32.7 mmol) 1-bromopropane and 299 mg (1.80 mmol) KI are added to a mixture of 3.39 g (24.5 mmol) K2CO3 and 200 mL acetone. The mixture is stirred for 30 min at reflux. Subsequently, 5.00 g (18.0 mmol) methyl-5-hydroxy-2-iodobenzoate are added and the resulting mixture is refluxed for 2 h. One additional equivalent of 1-bromopropane and of K2CO3 is added and refluxing is continued for 12 h. Water is added and the mixture is extracted with EtOAc. The organic layer is dried over sodium sulphate and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, heptane/EtOAc 100/0→60/40). The product is used without further characterization.

reactant | 1-bromopropane | 32.7 mmol, 2.97 mL | BrCCC | C3H7Br
reactant | K2CO3 | 24.5 mmol, 3.39 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 200 mL | CC(=O)C | C3H6O
reactant | methyl-5-hydroxy-2-iodobenzoate | 18.0 mmol, 5.00 g | COC(C1=C(C=CC(=C1)O)I)=O | C8H7IO3
solvent | Water | O | H2O
product | Methyl-5-propoxy-2-iodobenzoate | COC(C1=C(C=CC(=C1)OCCC)I)=O | C11H13IO3
